US06191124B1
1-(2,3-Dimethylimidazo[2,1-b]thiazol-5-yl)-3-hydroxy-3-phenyl-1-propanone (Formula R-3, X=H), 0.08 g, in toluene (10 mL) was treated with 1M diisobutylaluminum hydride (1.0 mL) and reacted for 1.25 hours. The solution was quenched into 5% citric acid, the mixture was extracted with ethyl acetate and the citric acid solution was neutralized with NaOH. Extraction of product from the neutralized solution gave pure 1-(2,3-Dimethylimidazo[2,1-b]thiazol-5-yl)-3-phenyl-1,3-propanediol (Formula R-4, X=H), 0.04 g, m.p. 152-153° after crystallization from CH2Cl2/CH3CN solution.

reactant | 1-(2,3-Dimethylimidazo[2,1-b]thiazol-5-yl)-3-hydroxy-3-phenyl-1-propanone | CC1=C(N2C(S1)=NC=C2C(CC(C2=CC=CC=C2)O)=O)C | C16H16N2O2S
reactant | diisobutylaluminum hydride | 1M, 1.0 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2,3-Dimethylimidazo[2,1-b]thiazol-5-yl)-3-phenyl-1,3-propanediol | CC1=C(N2C(S1)=NC=C2C(CC(O)C2=CC=CC=C2)O)C | C16H18N2O2S
